US06949579B2
N-(5-Nitro-1H-indazol-3-yl)benzamide may be obtained in the following manner: 0.39 cm3 of benzoyl chloride is added dropwise to a solution of 0.6 g of 5-nitro-1H-indazole-3-amine and 5 cm3 of pyridine, cooled to 0° C. The medium is returned to a temperature in the region of 20° C. and stirred for 18 hours. After addition of 20 cm3 of distilled water, the medium is extracted with 20 cm3 and 10 cm3 of ethyl acetate. The organic phases are combined, dried over magnesium sulphate, filtered and concentrated by evaporation under reduced pressure. The residue thus obtained is purified by chromatography on a column of silica with a dichloromethane/methanol mixture (99/1 by volume) as eluent. 0.9 g of N-(5-nitro-1H-indazol-3-yl)benzamide is thus obtained in the form of an orange-coloured solid melting at 231° C.

reactant | benzoyl chloride | 0.39 cm3 | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 5-nitro-1H-indazole-3-amine | 0.6 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)N | C7H6N4O2
reactant | pyridine | 5 cm3 | N1=CC=CC=C1 | C5H5N
solvent | water | 20 cm3 | O | H2O
product | N-(5-nitro-1H-indazol-3-yl)benzamide | 0.9 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C14H10N4O3
